US07576115B2
Synthesis of (3,4-dichlorophenyl)(oxo)acetaldehyde
3,4-dichloroacetophenone (5.39 mmol, 1.02 g) was dissolved in dimethyl sulfoxide (13 mL), and 48% hydrobromic acid (1.83 mL) was gradually added at room temperature. The mixture was stirred overnight at 60° C., and then the reactor was cooled to room temperature. The reaction solution was poured into water (50 mL) at 0° C. and stirred for about 1 hour. The precipitated solid was recovered by filtration, washed with water and dried by means of a vacuum pump to give the desired product as a pale yellow solid (0.780 g, yield 71%).

reactant | 3,4-dichloroacetophenone | 5.39 mmol, 1.02 g | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | hydrobromic acid | 1.83 mL | Br | BrH
reactant | water | 50 mL | O | H2O
solvent | dimethyl sulfoxide | 13 mL | CS(=O)C | C2H6OS
product | (3,4-dichlorophenyl)(oxo)acetaldehyde | 0.780 g, yield 71% | ClC=1C=C(C=CC1Cl)C(C=O)=O | C8H4Cl2O2
